US07968570B2
A mixture of 2-iodo-6-methyl-benzoic acid methyl ester (3.59 g, 13 mmol), N-bromosuccinamide (2.3 g, 13 mmol), and benzoyl peroxide (0.056 g, 0.21 mmol) in carbon tetrachloride (20 mL) was heated at reflux until the starting materials were mostly consumed. Workup afforded 2-bromomethyl-6-iodo-benzoic acid methyl ester. The material was used without further purification.

reactant | 2-iodo-6-methyl-benzoic acid methyl ester | 13 mmol, 3.59 g | COC(C1=C(C=CC=C1C)I)=O | C9H9IO2
reactant | N-bromosuccinamide | 13 mmol, 2.3 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
reactant | benzoyl peroxide | 0.21 mmol, 0.056 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-6-iodo-benzoic acid methyl ester | COC(C1=C(C=CC=C1I)CBr)=O | C9H8BrIO2
